US06838465B2
1-(6.7-Dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3-methyl-2-(phenoxy)butan-1-one
Phenol (50 μl, 0.569 mmol) and sodium hydride (60% in a mineral oil, 10 mg) were added to a DMF (2 ml) solution of 1-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3-methyl-2-bromobutan-1-one (54 mg, 0.152 mmol) obtained in Reference example 16, and the mixture was stirred at 80° C. for 10 hours and cooled to room temperature. The reaction solution was diluted with ethyl acetate and hexane (1:1, 50 ml), washed with a 1 N aqueous sodium hydroxide solution (30 ml) and 1 N hydrochloric acid (30 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to preparative thin layer chromatography using ethyl acetate and hexane (1:1) as an eluent to obtain the captioned compound (30.7 mg, 55%) as a yellow oily substance.

reactant | Phenol | 0.569 mmol, 50 μl | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 1-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3-methyl-2-bromobutan-1-one | 0.152 mmol, 54 mg | COC=1C=C2CCN(CC2=CC1OC)C(C(C(C)C)Br)=O | C16H22BrNO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 1-(6.7-Dimethoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)-3-methyl-2-(phenoxy)butan-1-one | 30.7 mg, 55% | COC=1C=C2CCN(CC2=CC1OC)C(C(C(C)C)OC1=CC=CC=C1)=O | C22H27NO4
